US05364884
Synthesis of Nα -benzoyl-L-arginine ethyl ester hydrochloride
Nα -benzoyl-L-arginine was obtained from MTM Research Chemicals, Lancaster Synthesis, Inc., Windham, N.H. The Nα -benzoyl-L-arginine, 0.4 g, was placed in a two-necked round bottom flask equipped with a stirring bar and suspended in an excess (~5 ml) of ethyl alcohol. The outlet from the flask was attached to a mineral oil bubbler and dry hydrogen chloride gas was bubbled via the inlet into the stirred solution to the point of saturation; a mildly exothermic reaction ensued with gradual dissolution of the suspended starting material. The reaction was monitored by thin layer chromatography (TLC) in solvent system (dichloromethane:methanol: 80:20; v/v) until no starting material was left.

reactant | Nα -benzoyl-L-arginine | C(C1=CC=CC=C1)(=O)N[C@@H](CCCNC(N)=N)C(=O)O | C13H18N4O3
reactant | ethyl alcohol | ~5 ml | C(C)O | C2H6O
reactant | hydrogen chloride | Cl | ClH
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | Nα -benzoyl-L-arginine ethyl ester hydrochloride | Cl.C(C)OC([C@@H](NC(C1=CC=CC=C1)=O)CCCNC(N)=N)=O | InChI=1S/C15H22N4O3.ClH/c1-2-22-14(21)12(9-6-10-18-15(16)17)19-13(20)11-7-4-3-5-8-11;/h3-5,7-8,12H,2,6,9-10H2,1H3,(H,19,20)(H4,16,17,18);1H/t12-;/m0./s1
